US04942143
7-Hexyl-3-Methylxanthine and 6-(4-methoxyphenoxy)hexyl bromide were reacted and treated in substantially the same manner as described in Example 9 (a) to give 7-hexyl-1-[6-(4-methoxyphenoxy)hexyl]-3-methylxanthine (71%) as an oil.

reactant | 7-Hexyl-3-Methylxanthine | C(CCCCC)N1C=NC=2N(C(NC(C12)=O)=O)C | C12H18N4O2
reactant | 6-(4-methoxyphenoxy)hexyl bromide | COC1=CC=C(OCCCCCCBr)C=C1 | C13H19BrO2
product | 7-hexyl-1-[6-(4-methoxyphenoxy)hexyl]-3-methylxanthine | 71% | C(CCCCC)N1C=NC=2N(C(N(C(C12)=O)CCCCCCOC1=CC=C(C=C1)OC)=O)C | C25H36N4O4
